US06586617B1
To a solution of 4-chloroaniline (98%, 500 g (3.84 mol) in pyridine (338 ml) and acetonitrile (800 ml), p-toluenesulfonyl chloride (807.8 g (4.11 mol)) was added with stirring at temperature below 15° C. After stirring for 16 hours at room temperature, water (4000 ml) was added to the reaction mixture and stirring was continued for 3 hours to have crystals separated. The crystals were then filtered and washed with water to give 1100 g (102%) of 4′-chloro-p-toluenesulfonanilide as pale red crude crystals.

reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | p-toluenesulfonyl chloride | 4.11 mol, 807.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 4000 ml | O | H2O
solvent | pyridine | 338 ml | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | 4′-chloro-p-toluenesulfonanilide | 1100 g, 102% | ClC1=CC=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C13H12ClNO2S
